US08258136B2
0.64 g of 5-(4-chlorophenyl)-4-(3-chloro-2-pyridyl)-6-methyl-2H-pyrida zin-3-one and 15 g of phosphorus oxychloride were mixed. The mixture was stirred for 6 hours under reflux with heating. The reaction mixture was allowed to cool to room temperature, then, concentrated under reduced pressure. To the resultant residue were added ethyl acetate and ice-cooled sodium bicarbonate water. The mixture was stirred for about 5 minutes at room temperature, then, liquid-separated. The organic layer was washed with brine, and dried over anhydrous magnesium sulfate, then, concentrated under reduced pressure. 0.67 g of the resultant residue was subjected to silica gel column chromatography, to obtain 0.50 g of 3-chloro-5-(4-chlorophenyl)-4-(3-chloro-2-pyridyl)-6-methylpyridazine (hereinafter, described as compound (5) of the present invention.).

reactant | 5-(4-chlorophenyl)-4-(3-chloro-2-pyridyl)-6-methyl-2H-pyrida zin-3-one | 0.64 g | ClC1=CC=C(C=C1)C1=C(C(NN=C1C)=O)C1=NC=CC=C1Cl | C16H11Cl2N3O
reactant | phosphorus oxychloride | 15 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-chloro-5-(4-chlorophenyl)-4-(3-chloro-2-pyridyl)-6-methylpyridazine | 0.50 g | ClC=1N=NC(=C(C1C1=NC=CC=C1Cl)C1=CC=C(C=C1)Cl)C | C16H10Cl3N3
